US04804661
50 g of 3,5-dihydroxybenzoic acid are suspended in 132.2 g of acetic anhydride and heated to 50°. After the addition of 15 drops of concentrated H2SO4, the resulting solution is stirred for 1 hour at 60°. The reaction mixture is poured onto ice and extracted with CH2Cl2. The combined organic phases are washed 3 times with H2O, dried over Na2SO4 and concentrated by evaporation. The residue is crystallised from ether and yields 3,5-diacetoxybenzoic acid having a melting point of 140°-145°.

reactant | 3,5-dihydroxybenzoic acid | 50 g | OC=1C=C(C(=O)O)C=C(C1)O | C7H6O4
solvent | acetic anhydride | 132.2 g | C(C)(=O)OC(C)=O | C4H6O3
catalyst | H2SO4 | 15 drops | OS(=O)(=O)O | H2O4S
product | 3,5-diacetoxybenzoic acid | C(C)(=O)OC=1C=C(C(=O)O)C=C(C1)OC(C)=O | C11H10O6
